US07759503B2
Into a 2000 ml three-neck flask having a thermometer, a cooler, a stirring device, and a dripping funnel, 190.65 g (1.0 mol) of p-toluene sulfonate chloride, 32.24 g (0.1 mol) of tetramethylammonium bromide, and 400 ml of toluene were poured and cooled to 5° C. with stirring in an ice bath. After pouring 116.16 g (1.0 mmol) of 3-ethyl-hydroxymethyloxetane into the three-neck flask, 130 ml of a 35 wt % sodium hydroxide solution was dripped into the three-neck flask in 30 minutes. After the dripping, stirring was continued for 1 hour at the same temperature and then for 16 hours at a room temperature. After the reaction, 800 ml of water was poured into the flask followed by violent stirring. The mixture was left to stand to separate a water phase from an organic phase. The organic phase was washed with 400 ml of water and then dried with anhydrous magnesium sulfate over night. Then, the magnesium sulfate was removed by filtration, and the filtrate was concentrated. The thus-obtained crude product was separated and purified by silica gel column chromatography (eluting solution: hexane/ethyl acetate) to obtain a desired substance, i.e. 243.3 g (yield: 90%) of 2-(3-oxetanyl)butyltosylate.

reactant | p-toluene sulfonate chloride | 1.0 mol, 190.65 g | [Cl-].C1(=CC=C(C=C1)S(=O)(=O)[O-])C
reactant | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
reactant | 3-ethyl-hydroxymethyloxetane | 1.0 mmol, 116.16 g | C(C)C1C(OC1)CO | C6H12O2
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | tetramethylammonium bromide | 0.1 mol, 32.24 g | [Br-].C[N+](C)(C)C
solvent | water | 800 ml | O | H2O
product | 2-(3-oxetanyl)butyltosylate | 243.3 g, yield: 90% | O1CC(C1)C(COS(=O)(=O)C1=CC=C(C)C=C1)CC | C14H20O4S
